US06844338B2
1-(prop-2-en-1-yl)-3,3-dimethyl-6-methylthio-1H-2,1-benzothiazine-4-(3H)-one 2,2-dioxide (2 g; 0.006 mol) was dissolved in methanol (40 mL) and sodium borohydride (0.45 g; 0.012 mol) was added in one portion. After the initial effervescence, the reaction was left stirring overnight. The solvent was removed under vaccuo, water added and the product extracted with chloroform. After washing the organic extracts with water, drying over magnesium sulphate and filtering, the product was isolated as a white solid (1.8 g; 90%) of 3,4-dihydro-3,3-dimethyl-6-methylthio-1-(prop-2-en-1-yl)-1H-2,1-benzothiazin-4-ol 2,2-dioxide, used immediately in the next step.

reactant | 1-(prop-2-en-1-yl)-3,3-dimethyl-6-methylthio-1H-2,1-benzothiazine-4-(3H)-one 2,2-dioxide | 0.006 mol, 2 g | C(C=C)N1S(C(C(C2=C1C=CC(=C2)SC)=O)(C)C)(=O)=O | C14H17NO3S2
reactant | sodium borohydride | 0.012 mol, 0.45 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 3,4-dihydro-3,3-dimethyl-6-methylthio-1-(prop-2-en-1-yl)-1H-2,1-benzothiazin-4-ol 2,2-dioxide | 1.8 g, 90% | CC1(S(N(C2=C(C1O)C=C(C=C2)SC)CC=C)(=O)=O)C | C14H19NO3S2
